US04329454
PREPARATION OF 3-MERCAPTO-4-METHYL-5-OXO-6-HYDROXY-4,5-DIHYDRO-1,2,4-TRIAZINE
To a 22 liter (l.) flask containing 12.5 l. of anhydrous ethanol maintained in a nitrogen atmosphere were slowly added 230 g. of sodium. The mixture was maintained at room temperature overnight, a slow, but constant, stream of nitrogen being admitted to the flask. The mixture then was heated to 50° C., and 1050 g. (10 mole) of 4-methylthiosemicarbazide were added. The temperature of the mixture fell to 40° C. To the mixture were then added 1530 g. of diethyl oxalate through a funnel. Addition was at a rate sufficient for the reaction mixture to attain a temperature of from about 60° C. to about 65° C. The temperature of the resulting mixture rose to 65° C. The mixture was refluxed with stirring for four hours during which time a precipitate formed. The precipitate changed in appearance during the period of reflux. Upon discontinuing heating and stirring, the white solid grandually settled to the bottom of the flask leaving a clear light yellow supernatant liquid. The mixture was allowed to stand overnight. The bulk of the clear supernatant was removed by suction, and the white crystalline product in the form of its sodium salt was removed from the residual mixture by filtration and washed with dry ethanol.

reactant | sodium | [Na] | Na
reactant | 4-methylthiosemicarbazide | 10 mole | CNC(NN)=S | C2H7N3S
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | C(C)O | C2H6O
product | 3-MERCAPTO-4-METHYL-5-OXO-6-HYDROXY-4,5-DIHYDRO-1,2,4-TRIAZINE | SC1=NN=C(C(N1C)=O)O | C4H5N3O2S
